US05698718
1. Preparation of 2-Isopropyl-4,5-dichloromethyl-1,3-dioxolane
A three-neck 5-mL flask fitted with a thermometer, mechanical stirrer, addition funnel, condenser and positive nitrogen atmosphere was charged with EDC (200 mL), isobutyraldehyde (11.3 g, 0.157 mole), and 1,4-dichloro-2,3-butanediol (25.0 g, 0.157 mole). Concentrated sulfuric acid (23.2 g) was added dropwise to the agitated mixture over thirty minutes, during which time a slight exotherm was noticed and the flask was immersed in an ice bath to maintain a reaction temperature of 17°-19° C. Stirring was then continued at ambient temperature (20° C.) for five hours.

reactant | isobutyraldehyde | 0.157 mole, 11.3 g | C(C(C)C)=O | C4H8O
reactant | 1,4-dichloro-2,3-butanediol | 0.157 mole, 25.0 g | ClCC(C(CCl)O)O | C4H8Cl2O2
reactant | sulfuric acid | 23.2 g | S(O)(O)(=O)=O | H2O4S
solvent | EDC | 200 mL
product | 2-Isopropyl-4,5-dichloromethyl-1,3-dioxolane | C(C)(C)C1OC(C(O1)CCl)CCl | C8H14Cl2O2
